US05637593
5-Phenylthioindole (0.50 g, 2.22 mmol), 1-methylpiperid-4-one (0.292 g, 0.32 mL, 2.58 mmol) and sodium methoxide (0.139 g) were heated at reflux in MeOH (25 mL) for 20 hr. After cooling and work-up, 3-(1-methyl-1,2,5,6-tetrahydropyrid-4-yl)-5-phenylthioindole was obtained as a pale yellow solid, 0.399 g, (56%). This free base (0.20 g) was treated with fumaric acid (0.11 g, 0.94 mmol) in MeOH/Et2O to give: 3-(1-methyl-1,2,5,6-tetrahydropyrid-4-yl)-5-phenylthioindole fumarate, 0.124 g (46%), m.p. 225°-28° C.

reactant | 5-Phenylthioindole | 2.22 mmol, 0.50 g | C1(=CC=CC=C1)SC=1C=C2C=CNC2=CC1 | C14H11NS
reactant | 1-methylpiperid-4-one | 2.58 mmol, 0.32 mL, 0.292 g | CN1CCC(CC1)=O | C6H11NO
reactant | sodium methoxide | 0.139 g | C[O-].[Na+]
solvent | MeOH | 25 mL | CO | CH4O
product | 3-(1-methyl-1,2,5,6-tetrahydropyrid-4-yl)-5-phenylthioindole | CN1CC=C(CC1)C1=CNC2=CC=C(C=C12)SC1=CC=CC=C1 | C20H20N2S
